US08703768B2
Step 2: 3-Amino-6-methoxymethyl-pyridine-2-carboxylic acid methyl ester
To a stirred solution of methyl 3-(tert-butoxycarbonylamino)-6-(methoxymethyl)picolinate (695 mg, 2.35 mmol) at r.t. in dichloromethane (10 ml) under an argon atmosphere was added 2,2,2-trifluoroacetic acid (903 μl, 11.7 mmol) in one portion. The mixture was stirred at 50° C. overnight, then cooled to r.t. and treated carefully with 10% aq. Na2CO3 (10 ml). The aqueous solution was extracted with CH2Cl2 (10 ml). The combined organics were washed with brine (10 ml), dried over MgSO4, filtered and concentrated to leave the product as a light brown solid (424 mg, 92%) which was used for the next step without further purification.

reactant | methyl 3-(tert-butoxycarbonylamino)-6-(methoxymethyl)picolinate | 2.35 mmol, 695 mg | C(C)(C)(C)OC(=O)NC=1C(=NC(=CC1)COC)C(=O)OC | C14H20N2O5
reactant | 2,2,2-trifluoroacetic acid | 11.7 mmol, 903 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Amino-6-methoxymethyl-pyridine-2-carboxylic acid methyl ester | 424 mg, 92% | COC(=O)C1=NC(=CC=C1N)COC | C9H12N2O3
